### PR TITLE
[Merged by Bors] - feat(ModelTheory): Substructure-closure and finite generation in relational languages

### PR DESCRIPTION
**Pull request by awainverse**
Shows that in relational languages, all sets are closed as substructures.
As a consequence, finiteness is the same as finite generation.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/ModelTheory/Substructures.lean [hunk 1]
```diff
@@ -289,8 +289,22 @@ theorem lift_card_closure_le :
   refine lift_card_closure_le_card_term.trans (Term.card_le.trans ?_)
   rw [mk_sum, lift_umax.{w, u}]
 
+lemma closed_iff (s : Set M) :
+    (closure L).closed s ↔ ∀ {n}, ∀ f : L.Functions n, ClosedUnder f s := by
```
Comment (eric-wieser) [inline Mathlib/ModelTheory/Substructures.lean:293]: `x.closed` is a set not a function
```suggestion
lemma mem_closed_iff (s : Set M) :
    s ∈ (closure L).closed ↔ ∀ {n}, ∀ f : L.Functions n, ClosedUnder f s := by
```
which hould also remove the need for the `change`

File: Mathlib/ModelTheory/Substructures.lean [hunk 2]
```diff
@@ -289,8 +289,22 @@ theorem lift_card_closure_le :
...
+    exact Substructure.fun_mem _ _
+  · change closure L s = s
+    have h' : closure L s = ⟨s, h⟩ := closure_eq_of_le (refl _) subset_closure
+    rw [h']
+    rfl
+
 variable (L)
 
+@[simp]
+lemma closed_of_IsRelational [L.IsRelational] (s : Set M) : (closure L).closed s :=
```
Comment (eric-wieser) [inline Mathlib/ModelTheory/Substructures.lean:305]: Should also use `mem` here

File: Mathlib/ModelTheory/Substructures.lean [hunk 3]
```diff
@@ -289,8 +289,22 @@ theorem lift_card_closure_le :
...
 
+lemma closed_iff (s : Set M) :
+    (closure L).closed s ↔ ∀ {n}, ∀ f : L.Functions n, ClosedUnder f s := by
+  refine ⟨fun h n f => ?_, fun h => ?_⟩
+  · rw [← h]
+    exact Substructure.fun_mem _ _
+  · change closure L s = s
+    have h' : closure L s = ⟨s, h⟩ := closure_eq_of_le (refl _) subset_closure
+    rw [h']
+    rfl
```
Comment (eric-wieser) [inline Mathlib/ModelTheory/Substructures.lean:300]:
```suggestion
  · have h' : closure L s = ⟨s, h⟩ := closure_eq_of_le (refl _) subset_closure
    exact congr_arg _ h'
```

File: Mathlib/ModelTheory/Substructures.lean [hunk 4]
```diff
@@ -289,8 +289,20 @@ theorem lift_card_closure_le :
...
+  refine ⟨fun h n f => ?_, fun h => ?_⟩
+  · rw [← h]
+    exact Substructure.fun_mem _ _
+  · have h' : closure L s = ⟨s, h⟩ := closure_eq_of_le (refl _) subset_closure
+    exact congr_arg _ h'
+
 variable (L)
 
+@[simp]
+lemma mem_closed_of_IsRelational [L.IsRelational] (s : Set M) : s ∈ (closure L).closed :=
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Substructures.lean:303]:
```suggestion
lemma mem_closed_of_isRelational [L.IsRelational] (s : Set M) : s ∈ (closure L).closed :=
```

File: Mathlib/ModelTheory/FinitelyGenerated.lean [hunk 5]
```diff
@@ -92,6 +92,15 @@ theorem FG.of_map_embedding {N : Type*} [L.Structure N] (f : M ↪[L] N) {s : L.
   rw [h] at h'
   exact Hom.map_le_range h'
 
+theorem fg_of_finite {s : L.Substructure M} [h : Finite s] : s.FG :=
+  ⟨Set.Finite.toFinset h, by simp only [Finite.coe_toFinset, closure_eq]⟩
+
+theorem finite_of_fg [L.IsRelational] {S : L.Substructure M} (h : S.FG) : Finite S := by
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/FinitelyGenerated.lean:98]: Can we have `fg_iff_finite`? Same below

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge

File: Mathlib/ModelTheory/FinitelyGenerated.lean [hunk 6]
```diff
@@ -92,6 +92,18 @@ theorem FG.of_map_embedding {N : Type*} [L.Structure N] (f : M ↪[L] N) {s : L.
   rw [h] at h'
   exact Hom.map_le_range h'
 
+theorem fg_of_finite {s : L.Substructure M} [h : Finite s] : s.FG :=
```
Comment (jcommelin) [inline Mathlib/ModelTheory/FinitelyGenerated.lean:95]:
```suggestion
theorem FG.of_finite {s : L.Substructure M} [h : Finite s] : s.FG :=
```
this will allow dot-notation

File: Mathlib/ModelTheory/FinitelyGenerated.lean [hunk 7]
```diff
@@ -92,6 +92,18 @@ theorem FG.of_map_embedding {N : Type*} [L.Structure N] (f : M ↪[L] N) {s : L.
...
+  ⟨Set.Finite.toFinset h, by simp only [Finite.coe_toFinset, closure_eq]⟩
+
+theorem finite_of_fg [L.IsRelational] {S : L.Substructure M} (h : S.FG) : Finite S := by
```
Comment (jcommelin) [inline Mathlib/ModelTheory/FinitelyGenerated.lean:98]:
```suggestion
theorem FG.finite [L.IsRelational] {S : L.Substructure M} (h : S.FG) : Finite S := by
```
Idem

File: Mathlib/ModelTheory/FinitelyGenerated.lean [hunk 8]
```diff
@@ -227,6 +238,15 @@ instance Fg.instCountable_embedding (N : Type*) [L.Structure N]
     [Countable N] [h : FG L M] : Countable (M ↪[L] N) :=
   FG.countable_embedding N h
 
+theorem fg_of_finite [Finite M] : FG L M := by
```
Comment (jcommelin) [inline Mathlib/ModelTheory/FinitelyGenerated.lean:241]:
```suggestion
theorem FG.of_finite [Finite M] : FG L M := by
```

File: Mathlib/ModelTheory/FinitelyGenerated.lean [hunk 9]
```diff
@@ -227,6 +238,15 @@ instance Fg.instCountable_embedding (N : Type*) [L.Structure N]
...
+  simp only [fg_def, Substructure.fg_of_finite, topEquiv.toEquiv.finite_iff]
+
+theorem finite_of_fg [L.IsRelational] (h : FG L M) : Finite M :=
```
Comment (jcommelin) [inline Mathlib/ModelTheory/FinitelyGenerated.lean:244]:
```suggestion
theorem FG.finite [L.IsRelational] (h : FG L M) : Finite M :=
```

**Review by jcommelin — COMMENTED** [review]
bors d+
